US07109186B2
Compound 93-A: 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolane-4-ylidene)-N-methoxy-N-naphthalen-1-ylmethyl-acetamide
O-Methyl-N-naphthalen-1-ylmethyl-hydroxylamine was reacted with (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid according to the method described for the preparation of compound 90-B to give the title compound as a pale yellow solid (0.826 g, 56% yield). 1HNMR (300 MHz, CDCl3) δ: 8.18 (1H, d, J=8.05 Hz), 7.85 (2H, t, J=9.15 Hz), 7.56–7.41 (4H, m), 6.40 (1H, s), 5.30 (2H, s), 3.43 (3H, s), 1.77 (6H, s).

reactant | O-Methyl-N-naphthalen-1-ylmethyl-hydroxylamine | CONCC1=CC=CC2=CC=CC=C12 | C12H13NO
reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid | CC1(OC(C(O1)=CC(=O)O)=O)C | C7H8O5
product | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolane-4-ylidene)-N-methoxy-N-naphthalen-1-ylmethyl-acetamide | 0.826 g, 56% yield | CC1(OC(C(O1)=CC(=O)N(CC1=CC=CC2=CC=CC=C12)OC)=O)C | C19H19NO5
